US06613772B1
Methyl 2-(4-Chlorobenzoylamino)-3,4,5-trimethoxybenzoate (Intermediate)
A solution of 20.3 g of 4-chlorobenzoyl chloride in 60 ml of THF was added dropwise to the solution of 25.3 g of methyl 2-amino-3,4,5-trimethoxybenzoate and 16 ml of triethylamine in 100 ml of THF. The mixture was refluxed for 1 hour (h), cooled in an ice bath and filtered. After concentration, a colorless residue remained. Yield: 34.1 g. Melting point (m.p.): 116° C.

reactant | 4-chlorobenzoyl chloride | 20.3 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | methyl 2-amino-3,4,5-trimethoxybenzoate | 25.3 g | NC1=C(C(=O)OC)C=C(C(=C1OC)OC)OC | C11H15NO5
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Methyl 2-(4-Chlorobenzoylamino)-3,4,5-trimethoxybenzoate | ClC1=CC=C(C(=O)NC2=C(C(=O)OC)C=C(C(=C2OC)OC)OC)C=C1 | C18H18ClNO6
